data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3933,"O[CH:1]([NH2:2])[Br:3].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7498,"CC=C[CH2:1][Br:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9315,"CO[C:1](OC)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6046,"[Li][O:1][C:2](C)(C1=CC=CC=C1)[NH+:3](C)OC.[OH-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1142,"CCC[OH+:1][Na:2]|((2, 1), 1)"
train,pmechdb_split_0,0,3698,"CC[B-:1](CC)(CC)[H:2].[Li][O+:3]=[C:4](CCC)OCCC|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3230,"C[S+:1]1C[CH2:2]1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,484,"C1CCOC1.N#CC1=CC=C(N2CC[C:1]([OH:2])([OH+:3]CCO)CC2)C=C1.O.O=S(=O)([O-])O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8415,"CBr.CCCCCCN1CCC23C4=C5C=CC([O:1][B-:2](O)(Br)Br)=C4OC2C(=O)CCC3(O)C1C5.O|((2, 1), 1)"
train,pmechdb_split_0,0,2743,"Cl[P:1](Cl)Cl.[CH3][Mg:2][Br]|(1, 2)"
train,pmechdb_split_0,0,9916,"O=S(=O)(O)C1=CC=C2C=C[CH:1]=[CH:2]C2=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8624,"CC1CCC(C(C)C)C(C=CC(C)(C(=O)O[P:1](OC2=CC=CC=C2)(OC2=CC=CC=C2)([N:2]=[N+]=[N-])[O-:3])C(C)C)C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6563,"CO[C+:1]1C(Br)=CC=C[C:2]1([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6455,"CC(=O)O.CC(=O)O[I+:1]1([O:2][CH:3](C(CC2=CC=CC=C2)NC(=O)C2=CC=CC=C2)[H:4])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,947,"C1CCC2=[N:1]CCCN2CC1.C=CCO[C:2]([CH:3](C1=CC=CC=C1)[H:4])=[O:5].CC1=CC=C(S(=O)(=O)N=[N+]=[N-])C=C1.CC1=CC=C(S(=O)(=O)[N-][N+]#N)C=C1|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,10339,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]CC2C[CH:3]=[CH:4]C2C2CCCCC2)C=C1|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4157,"C[CH:1]=[O:2].[Br][Mg:3][C:4]1=CC=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5935,"C[C:1](C)([O:2]C)[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5621,"CC(=O)O.O.O=C(OCC1=CC=CC=C1)N1CCC(C(=CC(C2=CC=NC=C2)[C:1](C2=CC=C(F)C=C2)=[O:2])[NH2:3])CC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,447,"CCC(N)(O)[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9673,"C[C:1](OC=O)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2818,"[O-]C1([OH+:1][Na:2])C(Cl)C2C=CCC21|((2, 1), 1)"
train,pmechdb_split_0,0,1212,"C[O+:1](C(O)(O)C1CC(O)CN1C(=O)OCC1=CC=CC=C1)[H:2].C[OH:3].O=S(=O)([O-])O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2217,"C=CC1=C2C(=CC=C1)N(C(=O)C1=CC=CC=C1)CC2C(=O)N(C)C(=O)[CH:1]([H:2])[C:3](OC)=[O:4].CC[N:5](CC)CC.CS(=O)(=O)[N-][N+]#N|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3295,"Br[P+:1](Br)(Br)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3619,"C[C:1](O)=[OH+:2].[Cl-].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8442,"O=C(O[C:1]1=[CH:2][CH:3]=[CH:4]C=C1)C1=CC=CC=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,9234,"CCN(CC)CC.O=[S:1]([NH2+]CCC1=C(I)C=C2OCOC2=C1)(C1=CC=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6027,"C1=CC=C(C[NH2:1])C=C1.COC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6295,"CC(=O)[O-:1].CN1CC[C:2](=[N+:3]2CCN(C3=CC=C(C4=CC5=C(C=C4)N(S(=O)(=O)C4=CC=CC=C4)C4=C5C(Cl)=CC=N4)C=C3)CC2)[CH:4]([H:5])C1.O|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5516,"O=CC[O+:1](C(O)CO)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1651,"CCN(CC)CC.COC1=C(NC(=O)C[NH:1][CH:2](CC(C)(C)C)[OH2+:3])C=CC(OCCOC(C)=O)=C1.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,817,"C[C:1](C)([O:2][B-](F)(F)F)[OH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4587,"C=C.CCCC[N+](CCCC)(CCCC)CCCC.COCOC(=O)C1=C(OC)C2C#CC=CC#CC3N(C(=O)[O-])C4=C(C=C([O:1][Si-:2](C)(C)(F)C(C)C)C=C4)C24OC34C1C.C[Si](C)(C)F|((2, 1), 1)"
train,pmechdb_split_0,0,3629,"CP(C)(C)=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9141,"C1=CC=C(N2N=NN=C2[S:1][H:2])C=C1.C=C1CC(C=C(C)Br)OC(CCO[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1.CCOC(=O)N[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3768,"COC(=O)C12CC(=O)N(CCC3=CC(OC)=C(OC)C=C3)C1=CC=C([O:1]C(C)(C)O)C2.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3773,"CC(C)[O][Al:1]([O]C(C)C)[O]C(C)C.OC1(C23CCCCC2[O:2]3)CCCC1|(2, 1)"
train,pmechdb_split_0,0,7823,"CS(=O)(=O)C1=CC=C(C2=CC=C([N+:1](=NO)[H:2])C=C2)C=C1.O.O=S(=O)([O-])[O-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5247,"C=C(C[Si](C)(C)C)C1CCCC(=[O:1])C1.C[CH2][Al:2]([Cl])[Cl].[Cl-]|(1, 2)"
train,pmechdb_split_0,0,6197,"CC(=O)[O-:1].CCC(=O)[O+:2](C(C)([O-])OC(C)=O)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10327,"CC(=O)[O:1][H:2].COP(N=[N+]=[N-])(OC)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9669,"O=S(=O)(O)C1=CC=CC2=C1C=C[CH+:1][C:2]2(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2819,"CC1=CC(C)=C(I)C(C)=C1.CCC1([O-:1])C(=O)OCC2=C1C=CC=C2.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,5273,"C[S:1][S:2]CCC[S-:3]|(3, 2);((2, 1), 1)"
